US08071584B2
1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate
The title compound was prepared in two batches. The first batch was prepared as follows: (Boc)2O (1.77 g, 8.1 mmol) and DMAP (0.33 g, 2.7 mmol) were added to a solution of ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate (1.99 g, 5.4 mmol) in THF (4 mL) and CH3CN (40 mL). The reaction was stirred at room temperature for 20 h. Additional (Boc)2O (0.6 g, 2.8 mmol) was added and the reaction was stirred for 1 h. The reaction was concentrated under reduced pressure. The crude product was purified by a plug of silica with DCM, giving 2.36 g (93%) of the title compound.

reactant | (Boc)2O | 8.1 mmol, 1.77 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 5.4 mmol, 1.99 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CCSCC1 | C16H18BrNO2S
reactant | (Boc)2O | 2.8 mmol, 0.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 2.7 mmol, 0.33 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | 1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 2.36 g, 93% | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CCSCC1 | C21H26BrNO4S
